US04963590
3-(3,4-Dihydroxy-5-nitrophenyl)-1-(3,4,5-trimethoxyphenyl)prop-2-en-1-one
The procedure described in Example 8 was repeated using 0.55 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 0.63 g of 3',4',5'-trimethoxyacetophenone. Yield 0.50 g (44%), m.p.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 0.55 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | 3',4',5'-trimethoxyacetophenone | 0.63 g | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
product | 3-(3,4-Dihydroxy-5-nitrophenyl)-1-(3,4,5-trimethoxyphenyl)prop-2-en-1-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C18H17NO8
